Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:4](=[C:3]=[C:2]([H:8])[H:9])[C:5]#[N:6])[H:7],61.8898780713166
[O:1]=[C:5]1[C:4]([H:10])([H:11])[C:3]([H:8])([H:9])[C:2]([H:7])=[N:6]1>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],134.16995579970842
[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C@@:2]1([H:8])[C@:3]([C:4](=[O:5])[H:9])([H:10])[C:6]1([H:11])[H:12])[H:7],69.615120337243
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:14])[N:6]=[C:7]1[H:13])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8],77.34868032652108
[C:1]([C:3]([C+:2]([H:10])[H:11])([N-:4][O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],3.468025627029803
[C:1]([C:2](=[O:3])[N:4]([H:10])[H:12])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],63.4669740907809
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C-:3]([C:5]([C+:6]([O:7][H:19])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:18],80.959780463515
[C:1]([N:2]([H:7])[H:10])([C:3](=[O:4])[C:5](=[O:6])[H:11])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],65.424563549081
[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10]>>[H:7][H:8].[O:1]=[C:2]1[C:3]([H:6])=[N:4][C:5]1([H:9])[H:10],89.05028415662659
[C-:5]#[C:6][C+:7]([H:13])[H:15].[C:1]([C:2]([C:3](=[O:4])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],19.548273123881486
[O:1]([C@:2]1([H:8])[C:3]([N+:6]#[C-:5])=[N:4]1)[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],32.522655819874785
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4](=[N:5]/[O:6][H:13])(\[C:7]([H:14])([H:15])[H:16])[H:11],70.56769163772891
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[O:3][C@:4]1([O:5][H:11])[N:6]([H:12])[H:13])([H:7])([H:8])[H:9],42.089663553921
[O:1]1[C:2]([H:7])=[C:6]([H:10])[C@@:4]2([H:9])[C@:3]1([H:8])[O:5]2>>[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10],88.31464121111581
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2](=[O+:3][H:11])=[C:4]([O-:5])[N:6]([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],23.075734616499496
[C:1]([C:2](=[C:3]=[C:4]=[C:5]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[O:6]([H:10])[H:14]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],50.240921148392886
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:2](=[C:3]=[N:4][C:5]#[N:6])[H:8])[H:7],90.1000022297596
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]=[C:3]([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([O:7][H:16])([H:14])[H:15])[H:13],82.3840608905748
[C:1]([H:7])([H:8])([H:9])[H:15].[O:2]=[C:3]1[N:4]([C:5]([H:10])([H:11])[H:12])[C:6]1([H:13])[H:14]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],58.5333436574584
[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[O:1]=[C:2]([C:3](=[C:4]=[N:5][H:8])[H:7])[H:6],68.6469533527398
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:7]([C:2](=[O:3])[H:11])([C:6](=[C:4]=[O:5])[H:12])[H:13])([H:8])([H:9])[H:10],49.63672816133389
[C:1]([C:2][C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]#[N:7])([H:11])[H:16])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10],3.7753041541369043
[N:1](=[C:2](\[O+:3]=[C-:4][H:9])[C@@:5]1([H:10])[C:6]([H:11])([H:12])[N:7]1[H:13])\[H:8]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],20.89873783404159
[C:1](/[C:2]([O:3][H:12])=[C:4](/[C:6](=[O:7])[H:15])[H:13])([H:8])([H:9])[H:10].[O:5]([H:11])[H:14]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],77.85795481501671
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[C:3]1(=[C:6]=[O:7])[C:4]([H:11])([H:12])[N:5]1[H:13].[O:1]([C:2]([H:9])([H:10])[H:14])[H:8],73.0335796479973
[O:1]=[C:2]([C:3](=[C:4]=[C:5]([C:6]#[N:7])[H:10])[H:9])[H:8]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],94.0246460068693
